* C:\Users\Luca Lanzillotta\Documents\GitHub\billee-hardware-2026\BILLEE_Rover_Control_Module_V1\sims\JetsonPowerPoeSim\JetsonPwrPoe.asc
XU2 NC_01 N013 N016 N003 22.2V_POE MP_02 0 MP_03 N014 MP_04 MP_05 N011 N002 Vout NC_06 N017 0 LT8612_AVG
V1 N001 0 {X}
C1 N001 0 220n
R1 N001 N007 33K
R2 N007 0 10K
R4 N012 0 15K
R5 N009 0 4.7k
R6 N005 0 15K
C2 22.2V_POE 0 4.7µ
R8 22.2V_POE N003 200K
R9 N003 0 10k
C3 N013 0 1µ
C4 N002 0 1µ
R10 Vout N017 196k
C5 Vout N017 10p
R11 N017 0 10k
L1 N014 Vout 33µ Rser=1m
C7 Vout 0 47µ
C8 Vout 0 47µ
C9 N014 N011 0.1µ
R12 N016 0 110k
XU1 N005 N007 N009 N010 N012 N010 N010 N010 N015 N004 N006 N008 N001 22.2V_POE 22.2V_POE 22.2V_POE 22.2V_POE 22.2V_POE 22.2V_POE TPS1HB08B_SW
R13 N015 0 15k
XU3 N009 0 BAS316
R3 N010 0 1Meg
R7 N008 0 1Meg
R14 N006 0 1Meg
R15 N004 0 1Meg
.tran 0 3 0 uic
.lib LT8612_AVG.lib
.lib TPS1HB08B_SW.lib
.STEP PARAM X LIST 22.2V 21V 26V 20V -20V
.lib Contrib/Toshiba/DIODE/BAS316_enc.lib
.lib LT8612_AVG.lib
.lib TPS1HB08B_SW.lib
.backanno
.end
