* Behavioral AVERAGE model of the LT8612 synchronous buck regulator.
* NOT cycle-accurate: no switching frequency, no ripple, no EMI, and the
* control loop is a generic gm/C integrator (real internal compensation is
* proprietary and not modeled). Intended for fast, multi-second system-level
* studies only. Cross-check specific transient events against the real
* LT8612.sub switching model over short windows separately.
* Pin order matches PowerProducts\LT8612.asy exactly:
* MODE TRSS RT ENUV VIN PGND SW BST INTVCC BIAS PG FB GND
.SUBCKT LT8612_AVG MODE TRSS RT ENUV VIN NC1 PGND NC2 SW NC3 NC4 BST INTVCC BIAS PG FB GND PARAMS: VREF=0.8 GM=1m CINT=100n DUTYMAX=0.9
RMODE MODE GND 1MEG
RRT RT GND 1MEG
RBST BST GND 1MEG
RINTVCC INTVCC GND 1MEG
RBIAS BIAS GND 1MEG
ISS TRSS GND 10U
EEN ENL GND VALUE={IF(V(ENUV,GND)>1.2,1,0)}
EVREFF VREFF GND VALUE={MIN(V(TRSS,GND),{VREF})}
GERR ERR GND VALUE={ {GM}*(V(VREFF,GND)-V(FB,GND)) }
CERR ERR GND {CINT}
RERR ERR GND 100MEG
EDUTY DUTY GND VALUE={MAX(0,MIN({DUTYMAX},V(ERR,GND)))*V(ENL,GND)}
ESW SW PGND VALUE={V(DUTY,GND)*V(VIN,PGND)}
EPG PG GND VALUE={IF(V(FB,GND)>0.76,5,0)}
.ENDS LT8612_AVG
