* Simplified behavioral replacement for TPS1HB08B-Q1_TRANS.
* Plain series power switch: VBB -> VOUT when EN > VENTH, Ron=RON.
* No current-limit, diagnostics, thermal, or fault-latch behavior modeled.
* For fast system-level power-tree checks only, per user confirmation that
* U1 is used here as a straightforward series switch (not under protection-
* logic test).
* Pin order matches TPS1HB08B-Q1_TRANS.asy exactly:
* DIA_EN EN GND ILIM LATCH NC_0 NC_1 NC_2 SEL1 SNS TCON TJ VBB VOUT_0..VOUT_5
.SUBCKT TPS1HB08B_SW DIA_EN EN GND ILIM LATCH NC_0 NC_1 NC_2 SEL1 SNS TCON TJ VBB VOUT_0 VOUT_1 VOUT_2 VOUT_3 VOUT_4 VOUT_5 PARAMS: RON=16m VENTH=1.5 TEMP_AMB=25
RDIAEN DIA_EN GND 1MEG
RILIM ILIM GND 1MEG
RLATCH LATCH GND 1MEG
RNC0 NC_0 GND 1MEG
RNC1 NC_1 GND 1MEG
RNC2 NC_2 GND 1MEG
RSEL1 SEL1 GND 1MEG
RSNS SNS GND 1MEG
RTCON TCON GND 1MEG
RTJ TJ GND 1MEG
SSW VBB VOUT_0 EN GND SWMOD
.MODEL SWMOD SW(Ron={RON} Roff=100MEG Vt={VENTH} Vh=0.1)
RP01 VOUT_0 VOUT_1 1m
RP12 VOUT_1 VOUT_2 1m
RP23 VOUT_2 VOUT_3 1m
RP34 VOUT_3 VOUT_4 1m
RP45 VOUT_4 VOUT_5 1m
.ENDS TPS1HB08B_SW
