* Behavioral AVERAGE model of the LT8612 synchronous buck regulator.
* NOT cycle-accurate: no switching frequency, no ripple, no EMI, and the
* control loop is a generic gm/C integrator (real internal compensation is
* proprietary and not modeled). Intended for fast, multi-second system-level
* studies only. Cross-check specific transient events against the real
* LT8612.sub switching model over short windows separately.
* Pin order matches PowerProducts\LT8612.asy exactly:
* MODE TRSS RT ENUV VIN PGND SW BST INTVCC BIAS PG FB GND
.SUBCKT LT8612_AVG MODE TRSS RT ENUV VIN NC1 PGND NC2 SW NC3 NC4 BST INTVCC BIAS PG FB GND PARAMS: VREF=0.970 GM=1m CINT=1u DUTYMAX=0.9
RMODE MODE GND 1MEG
RRT RT GND 1MEG
RBST BST GND 1MEG
RINTVCC INTVCC GND 1MEG
RBIAS BIAS GND 1MEG
ISS GND TRSS 10U
RTRSS TRSS GND 1MEG
EEN ENL GND VALUE={IF(V(ENUV,GND)>1.0,1,0)}
EVREFF VREFF GND VALUE={MIN(V(TRSS,GND),{VREF})}
GERR GND ERR VALUE={ {GM}*(V(VREFF,GND)-V(FB,GND)) }
CERR ERR GND {CINT}
RERR ERR GND 100MEG
EDMAX DMAXNODE GND VALUE={ {DUTYMAX}*V(VREFF,GND)/{VREF} }
DCLAMPHI ERR DMAXNODE DCLAMP
DCLAMPLO GND ERR DCLAMP
.MODEL DCLAMP D(N=0.001 Is=1e-15)
EDUTY DUTYRAW GND VALUE={MAX(0,MIN(V(DMAXNODE,GND),V(ERR,GND)))*V(ENL,GND)}
RDF DUTYRAW DUTYF 1k
CDF DUTYF GND 2u
ESW SW PGND VALUE={V(DUTYF,GND)*V(VIN,PGND)}
EPG PG GND VALUE={IF(V(FB,GND)>0.76,5,0)}
.ENDS LT8612_AVG
