* C:\Users\Luca Lanzillotta\Documents\GitHub\billee-hardware-2026\BILLEE_Rover_Control_Module_V1\sims\RPI_2350PowerSim\RPI_2350PowerSim.asc
XU2 NC_01 N014 N017 N004 N002 MP_02 0 MP_03 N015 MP_04 MP_05 N012 N003 Vout NC_06 N018 0 LT8612_AVG
V1 N001 0 {X}
C1 N001 0 220n
R1 N001 N008 33K
R2 N008 0 10K
R4 N013 0 15K
R5 N010 0 4.7k
R6 N006 0 15K
C2 N002 0 4.7µ
R8 N002 N004 200K
R9 N004 0 10k
C3 N014 0 10n
C4 N003 0 1µ
R10 Vout N018 1Meg
C5 Vout N018 10p
R11 N018 0 412k
L1 N015 Vout 1.8µ Rser=1m
C7 Vout 0 47µ
C8 Vout 0 47µ
C9 N015 N012 0.1µ
R12 N017 0 110k
XU1 N006 N008 N010 N011 N013 N011 N011 N011 N016 N005 N007 N009 N001 N002 N002 N002 N002 N002 N002 TPS1HB08B_SW
R13 N016 0 15k
XU3 N010 0 BAS316
R3 N011 0 1Meg
R7 N009 0 1Meg
R14 N007 0 1Meg
R15 N005 0 1Meg
.tran 0 3 0 uic
.lib LT8612_AVG.lib
.lib TPS1HB08B_SW.lib
.STEP PARAM X LIST 22.2V 21V 26V 20V -20V
* Expect high overshoot as LT8612 is approximated.
* Vendor labeled sim does not have this issue.
.lib Contrib/Toshiba/DIODE/BAS316_enc.lib
.lib LT8612_AVG.lib
.lib TPS1HB08B_SW.lib
.backanno
.end
